US05380721
Sixty-two grams (0.30 mole) of 2-benzoylbenzaldehyde in 140 mL of THF was treated with 81.5 g (0.59 mole) of potassium carbonate and 64 g (0.32 mole) of benzylhydrazine dihydrochloride. The mixture was stirred 30 minutes at 0° and 40 mL of methylene dichloride was added. The mixture was stirred at room temperature for one day, filtered and stripped in vacuo to provide 131 g of 2-benzyl-1-phenyl phthalazinium chloride.

reactant | 2-benzoylbenzaldehyde | 0.30 mole, Sixty-two grams | C(C1=CC=CC=C1)(=O)C1=C(C=O)C=CC=C1 | C14H10O2
reactant | potassium carbonate | 0.59 mole, 81.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylhydrazine dihydrochloride | 0.32 mole, 64 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | methylene dichloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 2-benzyl-1-phenyl phthalazinium chloride | 131 g | [Cl-].C(C1=CC=CC=C1)[N+]1=C(C2=CC=CC=C2C=N1)C1=CC=CC=C1 | InChI=1S/C21H17N2.ClH/c1-3-9-17(10-4-1)16-23-21(18-11-5-2-6-12-18)20-14-8-7-13-19(20)15-22-23;/h1-15H,16H2;1H/q+1;/p-1
